* C:\Projects\applied-electronics-labs\cu-boulder-power-electronics\01-boost-converter-simulation\boost.asc
* Generated by LTspice 26.0.2 for Windows.
Vduty vc 0 0.4
V_driver_supply vdd 0 12
Rg Vgate g 10
D1 Vsw Vout RF1601NS2D
M1 Vsw Vgate 0 0 IRFS4010
C1 Vout 0 33µF ic=20
Rload Vout 0 20ohm
L1 N001 N002 100µH
RL Vsw N002 100mohm
Vg N001 0 24
X§U2 vc c PWM VM=1V, fs=100kHz Dmin=0, Dmax=0.9, Voffset=0 ;§pnba vc)c
X§U1 c vdd 0 0 g driver Imax=3A Tdelay=30ns, IQ=1mA, Vuvl=9V ;§pnba c)Vdd)Vss)Vssin)out
.model D D
.lib C:\Users\Tural\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Tural\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 5msec 10n 20e-9 uic
* Boost converter power stage
* Transistor gate drive circuit
* Pulse-width modulator
* Simulation directives
.lib switching.lib
.options reltol=0.0005
.backanno
.end
